US06080781
Synthesis of 7-hydroxy-3-piperonylidene-4(4H)-benzopyranone
After 7-hydroxy-4(4H)-benzopyranone 1.0 g and piperonal 1.0 g were added to a mixture of concentrated hydrochloric acid 50 ml and methanol 75 ml, the mixture was refluxed for two hours and cooled to room temperature, and water 200 ml was added. The mixture was allowed to stand for one hour and the precipitated crystals were filtered. The crystals were dried over phosphorous pentoxide for four hours under reduced pressure to obtain the desired compound 0.266 g.

reactant | 7-hydroxy-4(4H)-benzopyranone | 1.0 g | OC1=CC2=C(C(C=CO2)=O)C=C1 | C9H6O3
reactant | piperonal | 1.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | methanol | 75 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 7-hydroxy-3-piperonylidene-4(4H)-benzopyranone | 0.266 g | OC1=CC2=C(C(C(CO2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C17H12O5
